US05091432
3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 1-(dimethylamino)-2-propyl ester
3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, compd with 1-(dimethylamino)-2-propanol (1:1)

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid | O=C1C=2N=CN(C2N=CN1)CCC(=O)O | C8H8N4O3
reactant | 1-(dimethylamino)-2-propanol | CN(CC(C)O)C | C5H13NO
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 1-(dimethylamino)-2-propyl ester | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC(CN(C)C)C | C13H19N5O3
